US04470976
2,5-Dihydroxyphenyl 4-O-(α-D-glucopyranosyl)-1-thio-β-D-glucopyranoside
To a solution of 14.0 g of 2,5-dihydroxyphenyl 2,3,6-tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl)-1-thio-β-D-glucopyranoside in 100 ml of absolute methanol under argon at 5° C. was added 0.6 g of sodium spheres in oil. The reaction was stirred at room temperature for one hour, then 20 ml of a strongly acidic sulfonic acid cation exchanger, for example, Dowex® 50WX8 (H+) resin (Dow), was added, the mixture was stirred 10 minutes then filtered and concentrated in vacuo, giving 9.19 g of the desired intermediate as a dark brown solid, [α]D26 =+52°±2° (0.51% methanol).

reactant | 2,5-dihydroxyphenyl 2,3,6-tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl)-1-thio-β-D-glucopyranoside | 14.0 g | C(C)(=O)O[C@H]1[C@H](SC2=C(C=CC(=C2)O)O)O[C@@H]([C@H]([C@@H]1OC(C)=O)O[C@@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)COC(C)=O | C32H40O19S
reactant | sodium | 0.6 g | [Na] | Na
solvent | methanol | 100 ml | CO | CH4O
product | 2,5-Dihydroxyphenyl 4-O-(α-D-glucopyranosyl)-1-thio-β-D-glucopyranoside | 9.19 g | [C@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O[C@H]1[C@@H]([C@H]([C@H](SC2=C(C=CC(=C2)O)O)O[C@@H]1CO)O)O | C18H26O12S
